US08871756B2
N˜1˜-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-2-methylpropane-1,2-diamine
The title compound was prepared in analogy to Example 5-1 in Scheme 5 by using 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (prepared in analogy to the one in Example 2-1) and 2-methylpropane-1,2-diamine. MS obsd. (ESI+) [(M+H)+] 425, 1H NMR (400 MHz, CD3OD) δ ppm 7.97 (d, J=7.83 Hz, 1 H), 7.85 (d, J=7.58 Hz, 1 H), 7.70 (s, 1 H), 7.60 (t, J=7.33 Hz, 1 H), 7.48-7.38 (m, 2 H), 7.29-7.27 (m, 1 H), 6.09 (s, 1 H), 5.15 (brs, 2 H), 3.57 (brs, 2 H), 3.26 (s, 2 H), 2.43 (s, 3 H), 1.34-1.20 (m, 6 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | 2-methylpropane-1,2-diamine | CC(CN)(C)N | C4H12N2
product | N˜1˜-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-2-methylpropane-1,2-diamine | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)NCC(C)(N)C)C)=O | C23H28N4O2S
